US05332731
Preparation of pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate
Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate (65 mg) was reacted with iodomethyl pivalate (46 mg) in accordance with the procedure of Example 4. The crude reaction product was purified by a column chromatography on a silica gel column (12 g) with elution using chloroform-methanol (10:1 by volume) as eluent to collect fractions containing the titled compound. The fractions so collected were concentrated to a small volume, to which was added diisopropylether dropwise and slowly, resulting in the deposition of crystals. The crystals were taken up by filtration, followed by washing with diisopropylether and drying, affording the titled compound (48 mg; 62%).

reactant | Sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate | 65 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)[O-])C1=O)=N/O.[Na+]
reactant | iodomethyl pivalate | 46 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | pivaloyloxymethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(tetrahydropyran-2-yl)methylthio-3-cephem-4-carboxylate | 48 mg, 62% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CC2OCCCC2)C(=S)OCOC(C(C)(C)C)=O)C1=O)=N/O | C24H31N5O7S3
